US04755212
Preparation of 2-benzylthio-5,7-diphenyl-1,2,4-triazolo[1,5-a]pyrimidine
A solution of 8.40 g (37.5 mmol) of dibenzoylmethane and 7.73 g (37.5 mmol) of 3-amino-5-benzylthio-1,2,4-triazole in 50 ml of glacial acetic acid was heated at reflux for 24 hours. Upon cooling to room temperature the solid which separated was collected by filtration and dried. The product was chromatographed on silica gel (HPLC) eluting with EtOAc-hexane (3:7, v/v) to afford 5.08 g (34%) of the desired product as a colorless solid, m.p. 122.5°-123.5° C. IR and 1H NMR spectra were in agreement with the assigned structure.

reactant | dibenzoylmethane | 37.5 mmol, 8.40 g | C(C1=CC=CC=C1)(=O)CC(C1=CC=CC=C1)=O | C15H12O2
reactant | 3-amino-5-benzylthio-1,2,4-triazole | 37.5 mmol, 7.73 g | NC1=NNC(=N1)SCC1=CC=CC=C1 | C9H10N4S
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-benzylthio-5,7-diphenyl-1,2,4-triazolo[1,5-a]pyrimidine | 5.08 g, 34% | C(C1=CC=CC=C1)SC1=NN2C(N=C(C=C2C2=CC=CC=C2)C2=CC=CC=C2)=N1 | C24H18N4S
